US04820717
(4) 8-piperidino-2-(1-naphthyl)-octanenitrile
3.9 g of sodium amide are added in small quantities to 16.7 g of 1-naphthyl-acetonitrile in solution in 200 ml of anhydrous ether. After 2 hours of heating to reflux, 20.5 g of 6-piperidino-1-chloro-hexane are added and heating is continued to reflux for another 5 hours. Then, using the conventional methods, 30 g of product are isolated.

reactant | sodium amide | 3.9 g | [NH2-].[Na+]
reactant | 1-naphthyl-acetonitrile | 16.7 g | C1(=CC=CC2=CC=CC=C12)CC#N | C12H9N
reactant | 6-piperidino-1-chloro-hexane | 20.5 g | N1(CCCCC1)CCCCCCCl | C11H22ClN
solvent | ether | 200 ml | CCOCC | C4H10O
product | 8-piperidino-2-(1-naphthyl)-octanenitrile | N1(CCCCC1)CCCCCCC(C#N)C1=CC=CC2=CC=CC=C12 | C23H30N2
